US05731432
Preparation of 1-Bromo-2-(3'-carbomethoxyphenoxy)ethane.
A solution of 1 mmol methyl m-hydroxybenzoate, 2.3 mmol triphenylphosphine and 2.3 mmol 2-bromoethanol in 17 mL of THF was cooled to 0° C. and 2.3 mmol diethyl azodicarboxylate (DEAD) was added. The mixture was stirred at rt for 11 h. Chromatography provided the title compound as an oil.

reactant | triphenylphosphine | 2.3 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-bromoethanol | 2.3 mmol | BrCCO | C2H5BrO
reactant | diethyl azodicarboxylate | 2.3 mmol | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | 1-Bromo-2-(3'-carbomethoxyphenoxy)ethane | BrCCOC1=CC(=CC=C1)C(=O)OC | C10H11BrO3
